US05045564
4-(1-Hydroxynonyl)-2-trimethylsilylfuran
A mixture of 1-bromooctane (1.33 g, 6.9 mmol) and magnesium turnings (174 mg, 7.3 mmol) in tetrahydrofuran (8 ml) was refluxed under argon for 60 minutes. After cooling to 0°, a solution of 5-bromo-3-furaldehyde (1.21 g, 6.9 mmol) in THF (1 ml) was added and conditions maintained for 60 min. The mixture was further cooled to -78° and tert-butyl lithium (a 1.7M solution in pentane, 4.26 ml, 7.3 mmol) was added dropwise, followed by chlorotrimethylsilane (2.63 ml, 20.7 mmol) after 1 hour. Stirring was continued overnight while the cooling bath attained room temperature. The mixture was quenched with saturated aqueous ammonium chloride, diluted with water (15 ml) and extracted with ether. Evaporation of the dried (magnesium sulfate) extract gave a brown oil, which was subjected to flash chromatography on silica using 15% ethyl ether/petroleum ether. Fractions with Rf of about 0.2 on evaporation gave the captioned compound as a yellow oil.

reactant | 1-bromooctane | 6.9 mmol, 1.33 g | BrCCCCCCCC | C8H17Br
reactant | magnesium | 7.3 mmol, 174 mg | [Mg] | Mg
reactant | 5-bromo-3-furaldehyde | 6.9 mmol, 1.21 g | BrC1=CC(=CO1)C=O | C5H3BrO2
reactant | tert-butyl lithium | C(C)(C)(C)[Li]
reactant | chlorotrimethylsilane | 20.7 mmol, 2.63 ml | Cl[Si](C)(C)C | C3H9ClSi
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | pentane | CCCCC | C5H12
product | 4-(1-Hydroxynonyl)-2-trimethylsilylfuran | OC(CCCCCCCC)C=1C=C(OC1)[Si](C)(C)C | C16H30O2Si
